US03991076
22.8 g (0.11 mole) of phenacyl bromide are added dropwise to a cold stirred solution of 23.0 g (0.11 mole) of 5,6-dihydro-4-(1-pyrrolidinyl)-2H-thiopyran-1,1-dioxide and 100 ml. of dimethylformamide. The mixture is stirred for 18 hours, diluted with water, and extracted with chloroform. The chloroform solution is dried over magnesium sulfate and concentrated to a solid. Chromatography on silica gel with a benzene and methanol mixture followed by recrystallization from methanol gives colorless crystals of 2-phenacyl-2,3,5,6-tetrahydrothiopyran-4-one- 1,1-dioxide, m.p. 157.5° to 159°C.

reactant | phenacyl bromide | 0.11 mole, 22.8 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | 5,6-dihydro-4-(1-pyrrolidinyl)-2H-thiopyran-1,1-dioxide | 0.11 mole, 23.0 g | N1(CCCC1)C1=CCS(CC1)(=O)=O | C9H15NO2S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-phenacyl-2,3,5,6-tetrahydrothiopyran-4-one- 1,1-dioxide | C(C(=O)C1=CC=CC=C1)C1S(CCC(C1)=O)(=O)=O | C13H14O4S
